US05756505
Synthesis of 4-(4-fluorobenzyloxy)-3-isobutylbenzoic acid
Ethyl 4-hydroxy-3-isobutylbenzoate (25.6 g), potassium carbonate (31.8 g), and 4-fluorobenzyl bromide (26.1 g) were refluxed in acetone (150 ml) with stirring for 4 hours. The reaction mixture, with water added thereto, was extracted with ethyl acetate. The extract was concentrated under a vacuum. The resulting residue, with water (50 ml), potassium hydroxide (12.9 g), and ethanol (100 ml) added thereto, was refluxed with stirring for 2 hours. The reaction mixture, with water added thereto, was neutralized with hydrochloric acid and then extracted with ethyl acetate. The extract was washed with 10% hydrochloric acid and water successively, dried over sodium sulfate anhydride, and then concentrated under a vacuum. Thus obtained solid was recrystallized (from n-hexane/ethanol), thereby yielding 30.8 g of the aimed compound.

reactant | Ethyl 4-hydroxy-3-isobutylbenzoate | 25.6 g | OC1=C(C=C(C(=O)OCC)C=C1)CC(C)C | C13H18O3
reactant | potassium carbonate | 31.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzyl bromide | 26.1 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | water | O | H2O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-(4-fluorobenzyloxy)-3-isobutylbenzoic acid | 30.8 g | FC1=CC=C(COC2=C(C=C(C(=O)O)C=C2)CC(C)C)C=C1 | C18H19FO3
